US06967254B2
Step C: 4-(4-Chloro-phenyl)-1-piperidin-4-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one
To a solution of 4-[4-(4-Chloro-phenyl)-3-oxo-5-pyridin-4-yl-2,3-dihydro-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester 200 mg in flask was added HCl in ether and dioxane. After 2.25 hours, the solvent was evaporated under reduced pressure to afford the title compound as yellow oil. MS (ES+): 355 (M+H)+; (ES−): 353 (M−H).

reactant | 4-[4-(4-Chloro-phenyl)-3-oxo-5-pyridin-4-yl-2,3-dihydro-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1NC(C(=C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl)=O | C24H27ClN4O3
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-Chloro-phenyl)-1-piperidin-4-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)C=1C(NN(C1C1=CC=NC=C1)C1CCNCC1)=O | C19H19ClN4O
